* C:\Users\tjagielski\Documents\Projects\School\Sophomore - Semester 2\Circuits\MicroelectronicCircuits\lab8\Simulation\Experiment2.asc
XU1 P001 N001 P002 pmos3
XU2 P003 N001 P004 pmos3
XU3 N001 V1 N003 nmos3
XU4 N004 V2 N002 nmos3
XU5 N006 Vb 0 nmos3
Vdd P005 0 5
Vb Vb 0 0.6152
V1 V1 0 3
V2 V2 0 3
XU6 P005 vdd
XU7 P003 vdd
XU8 P002 vdd
V§I3 P004 N001 0
V§I4 P001 N002 0
V§I1 N003 N005 0
V§I2 N004 N005 0
V§Ib N005 N006 0
V§Iout N002 Vout 0
Vout Vout 0 0
.include engr2420.sub
.dc Vout 0 5 0.01
* Threshold = 0.6152 V\nStrong Inversion = 1 V
.backanno
.end
